US08258158B2
4-(3-Methoxy-propyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (6 g) was dissolved in methylene chloride (200 ml) under an argon atmosphere, TFA (35.6 ml) was added and the reaction mixture was stirred for 3 hours at RT. The solvent together with most of the TFA was evaporated off, the residue dissolved in methylene chloride (800 ml) and treated with 2M KHCO3 under ice cooling. The layers were separated, the organic layer was washed with water and brine, dried over sodium sulphate and concentrated in vacuo to give 3.63 g of 4-(3-methoxy-propyl)-piperidine-4-carboxylic acid ethyl ester as a light brown oil which was used in next reaction step without further purification.

reactant | 4-(3-Methoxy-propyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 6 g | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCCOC | C17H31NO5
reactant | TFA | 35.6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-methoxy-propyl)-piperidine-4-carboxylic acid ethyl ester | 3.63 g | C(C)OC(=O)C1(CCNCC1)CCCOC | C12H23NO3
